US04335142
PREPARATION OF p-BROMOPHENYL 1-(PHENYLSULFONYL)VINYL SULFIDE
A solution of 10.2 g (26.1 mmoles) of 2-chloro-1-(phenylsulfonyl)ethyl p-bromophenyl sulfide in 50 ml of tetrahydrofuran was diluted with 50 ml of diethyl ether and treated with 3.63 ml (2.65 g, 26.2 mmoles) of triethylamine. After 20 minutes the triethylamine hydrochloride was removed by filtration. The filtrate was freed of solvent by evaporation under reduced pressure to leave a viscous, pale yellow oil of n20 1.6338.

reactant | 2-chloro-1-(phenylsulfonyl)ethyl p-bromophenyl sulfide | 26.1 mmoles, 10.2 g | BrC1=CC=C(C=C1)SC(CCl)S(=O)(=O)C1=CC=CC=C1 | C14H12BrClO2S2
reactant | triethylamine | 26.2 mmoles, 3.63 ml, 2.65 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | p-BROMOPHENYL 1-(PHENYLSULFONYL)VINYL SULFIDE | C1(=CC=CC=C1)S(=O)(=O)C(=C)SC1=CC=C(C=C1)Br | C14H11BrO2S2
